US05643958
(1) Preparation of 3-tert-butyl 1,2-diethyl (1S,2R)-1-hydroxy-1,2,3-propanetricarboxylate
31 ml of a 1.69M hexane solution of n-butyl lithium was dissolved in 30 ml of tetrahydrofuran, and 7.1 ml of diisopropylamine was added under cooling with ice, followed by stirring at the same temperature for 30 minutes. Then, the mixture was cooled to -78° C. 20 ml of a tetrahydrofuran solution containing 4.94 g of diethyl (S)-malate was dropwise added at a temperature of not higher than -50° C., followed by stirring at -20° C. for 1.5 hours. The reaction solution was cooled to -78° C., and 20 ml of a tetrahydrofuran solution containing 5.58 g of tert-butyl bromoacetate and 4.66 g of hexamethylphosphoric triamide was dropwise added thereto at a temperature of not higher than -50° C., followed by stirring at room temperature for one hour. The reaction solution was poured into 150 ml of 0.5N hydrochloric acid and extracted with diethyl ether. Then, the organic layer was washed with a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1→4/1) to obtain 3.88 g of the above-identified compound as yellow oily substance.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 7.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | diethyl (S)-malate | 4.94 g | C([C@@H](O)CC(=O)OCC)(=O)OCC | C8H14O5
reactant | tert-butyl bromoacetate | 5.58 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | hydrochloric acid | 0.5N, 150 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 4.66 g | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexane | 1.69M | CCCCCC | C6H14
product | 3-tert-butyl 1,2-diethyl (1S,2R)-1-hydroxy-1,2,3-propanetricarboxylate | 3.88 g | O[C@@H]([C@@H](CC(=O)OC(C)(C)C)C(=O)OCC)C(=O)OCC | C14H24O7
